US09108921B2
Step F: 4-(3,3-difluorobutyl)piperidin-4-ol (16G)
The solution of tert-butyl-4-(3,3-difluorobutyl)-4-hydroxypiperidine-1-carboxylate (0.932 g, 3.2 mmol) in the solution of HCl in 1,4-dioxane (3M, 5 mL) was stirred at room temperature for 1 hour. The solution was evaporated to dryness under reduced pressure to give the product which was used in the next step without further purification. LC-MS: m/z 194.3 (M+H)+.

reactant | tert-butyl-4-(3,3-difluorobutyl)-4-hydroxypiperidine-1-carboxylate | 3.2 mmol, 0.932 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)CCC(C)(F)F | C14H25F2NO3
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 3M, 5 mL | O1CCOCC1 | C4H8O2
product | 4-(3,3-difluorobutyl)piperidin-4-ol | FC(CCC1(CCNCC1)O)(C)F | C9H17F2NO
